US07790745B2
To a solution of tert-butyldimethyl(m-tolyloxy)silane (1.31 g, 5.9 mmol) in CCl4 (30 mL) was added N-bromosuccinimide (1.13 g, 6.5 mmol), followed by benzoyl peroxide (55 mg, 0.2 mmol). The reaction was refluxed for 1 h, then cooled to room temperature. It was filtered and filtrate was concentrated and purified by column chromatography on ISCO with 10% ethyl acetate in hexanes to yield (3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane as a colorless oil (1.1 g, 62%). HPLC retention time (Method C)=4.44 min. LC/MS (ESI) (M+H)+=301.

reactant | tert-butyldimethyl(m-tolyloxy)silane | 5.9 mmol, 1.31 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C)(C)C | C13H22OSi
reactant | N-bromosuccinimide | 6.5 mmol, 1.13 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 30 mL | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.2 mmol, 55 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | (3-(bromomethyl)phenoxy)(tert-butyl)dimethylsilane | 1.1 g, 62% | BrCC=1C=C(O[Si](C)(C)C(C)(C)C)C=CC1 | C13H21BrOSi
